US03976657
B. 5-(4-Amino-2-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole
To a slurry of 28.8 g of 5-(2-chloro-4-nitrophenyl)-3-(2-furanyl)-1,2,4-oxadiazole in 600 ml of absolute ethanol and 34 ml of hydrochloric acid is added a slurry of 2.0 g of 10% palladium on charcoal in ethanol. The mixture is hydrogenated in a Parr hydrogenator at 45 p.s.i. for 3 hours. The insoluble amine hydrochloride is filtered and washed with ethanol. The filtrate is concentrated to dryness and the residue and precipitate are combined and treated with a solution of 20% potassium carbonate in the presence of chloroform. The phases are separated and the aqueous phases extracted three times with 300 ml of chloroform. The organic phases are dried over magnesium sulfate, filtered and concentrated to dryness yielding 20 g of crude product. Recrystallization from acetone/water yields 14.2 g of the title compound in 2 crops, melting point 175°-176.5°C.

reactant | 5-(2-chloro-4-nitrophenyl)-3-(2-furanyl)-1,2,4-oxadiazole | 28.8 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C1=NC(=NO1)C=1OC=CC1 | C12H6ClN3O4
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 34 ml | Cl | ClH
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | 5-(4-Amino-2-chlorophenyl)-3-(2-furanyl)-1,2,4-oxadiazole | 14.2 g | NC1=CC(=C(C=C1)C1=NC(=NO1)C=1OC=CC1)Cl | C12H8ClN3O2
